US08138189B2
Step 5: 3-Chloro-5-[2-(2-chloro-4-hydroxy-phenyl)-1-hydroxy-1-trifluoromethyl-propyl]-1-methyl-1H-pyridin-2-one
In analogy to Example 147, step 5, 3-chloro-5-[2-(2-chloro-4-methoxy-phenyl)-1-hydroxy-1-trifluoromethyl-propyl]-1-methyl-1H-pyridin-2-one was reacted with BBr3 to give the title compound as an off-white solid. MS (m/e, ISP neg. ion)=393.8 [M−H+].

reactant | 3-chloro-5-[2-(2-chloro-4-methoxy-phenyl)-1-hydroxy-1-trifluoromethyl-propyl]-1-methyl-1H-pyridin-2-one | ClC=1C(N(C=C(C1)C(C(C)C1=C(C=C(C=C1)OC)Cl)(C(F)(F)F)O)C)=O | C17H16Cl2F3NO3
reactant | BBr3 | B(Br)(Br)Br | BBr3
product | 3-Chloro-5-[2-(2-chloro-4-hydroxy-phenyl)-1-hydroxy-1-trifluoromethyl-propyl]-1-methyl-1H-pyridin-2-one | ClC=1C(N(C=C(C1)C(C(C)C1=C(C=C(C=C1)O)Cl)(C(F)(F)F)O)C)=O | C16H14Cl2F3NO3
